US04756739
3-(1,1,2,3,3,3-hexafluoro-1-propyloxy)-2-hydroxypyridine
2.6 g (10 mmol) of 2-amino-3-(1,1,2,3,3,3-hexafluoro-1propyloxy)pyridine were diazotized at 0° C. in 35 ml of 2N sulfuric acid using 0.76 g (11 mmol) of sodium nitrite in 5 ml of water. The reaction mixture was stirred for 30 minutes and the product was extracted using ethyl acetate. The organic phase was washed until neutral, dried using MgSO4 and concentrated by evaporation.

reactant | 2-amino-3-(1,1,2,3,3,3-hexafluoro-1propyloxy)pyridine | 10 mmol, 2.6 g | NC1=NC=CC=C1OC(C(C(F)(F)F)F)(F)F | C8H6F6N2O
reactant | sulfuric acid | 11 mmol, 2N, 35 ml, 0.76 g | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
solvent | water | 5 ml | O | H2O
product | 3-(1,1,2,3,3,3-hexafluoro-1-propyloxy)-2-hydroxypyridine | FC(C(C(F)(F)F)F)(OC=1C(=NC=CC1)O)F | C8H5F6NO2
